US04645818
A solution of hydrogen chloride (27.1 g) in methanol (192.2 g) is stirred at room temperature and 2-amino-4-chlorobenzoic acid (25 g) is added. The mixture is heated under reflux for 10 hours, then cooled and neutralised with a solution of sodium carbonate (20 g) in water (200 ml). The solid is filtered off, washed with water, and dried in vacuo at 65° C. to give methyl 2-amino-5-chlorobenzoate (15.5 g).

reactant | hydrogen chloride | 27.1 g | Cl | ClH
reactant | 2-amino-4-chlorobenzoic acid | 25 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 192.2 g | CO | CH4O
solvent | water | 200 ml | O | H2O
product | methyl 2-amino-5-chlorobenzoate | 15.5 g | NC1=C(C(=O)OC)C=C(C=C1)Cl | C8H8ClNO2
